US04309426
5-(2,4-Dichlorophenyl)-N-heptyl-6H-1,3,4-thiadiazin-2-amine monohydrochloride
3.78 g (0.02 mole) of 4-n-heptyl-thiosemicarbazide and 4.67 g (0.02 mole) of 2,4-dichlorophenacyl chloride are reacted analogously to Example 1. After recrystallization from methanol/methyl acetate, 5.2 g of 5-(2,4-dichlorophenyl)-N-heptyl-6H-1,3,4-thiadiazin-2-amine monohydrochloride are produced. m.p. 175°-177° C.

reactant | 4-n-heptyl-thiosemicarbazide | 0.02 mole, 3.78 g | C(CCCCCC)NC(NN)=S | C8H19N3S
reactant | 2,4-dichlorophenacyl chloride | 0.02 mole, 4.67 g | ClC1=C(C(CCl)=O)C=CC(=C1)Cl | C8H5Cl3O
product | 5-(2,4-Dichlorophenyl)-N-heptyl-6H-1,3,4-thiadiazin-2-amine monohydrochloride | Cl.ClC1=C(C=CC(=C1)Cl)C1=NN=C(SC1)NCCCCCCC | InChI=1S/C16H21Cl2N3S.ClH/c1-2-3-4-5-6-9-19-16-21-20-15(11-22-16)13-8-7-12(17)10-14(13)18;/h7-8,10H,2-6,9,11H2,1H3,(H,19,21);1H
